US06423713B1
5-(N-methyl-4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole
To a solution of 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride (Example C-74) (25 g, 61 mmol) in 140 mL of formic acid (96%) was added 50 g of formaldehyde (37%). The solution was stirred at 75° C. for 48 h and was cooled to room temperature. The excess formic acid was removed under reduced pressure and the residue was dissolved in 100 mL of water. The solution was added to concentrated NH4OH/H2O and the mixture was extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with brine (1×250 mL) and was dried over Na2SO4. The solution was filtered and concentrated to leave a white solid. The solid was triturated with ether and was filtered to afford the title compound: MS (M+H): 353 (base peak).

reactant | 5-(4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole hydrochloride | 61 mmol, 25 g | Cl.N1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1
reactant | formaldehyde | 50 g | C=O | CH2O
solvent | formic acid | 140 mL | C(=O)O | CH2O2
product | 5-(N-methyl-4-piperidyl)-4-(4-pyridyl)-3-(4-chlorophenyl)pyrazole | CN1CCC(CC1)C1=C(C(=NN1)C1=CC=C(C=C1)Cl)C1=CC=NC=C1 | C20H21ClN4
